US04418216
2-Methyl-3-tert.-butoxypropan-1-ol
This compound was prepared from 2-methyl-3-tert.-butoxypropanal by the method described in Example 7. Yield: 88%; boiling point 71° C./15 mbar; scent: methanol-like, floral.

reactant | 2-methyl-3-tert.-butoxypropanal | CC(C=O)COC(C)(C)C | C8H16O2
solvent | methanol | CO | CH4O
product | 2-Methyl-3-tert.-butoxypropan-1-ol | Yield: 88% | CC(CO)COC(C)(C)C | C8H18O2
